US08791102B2
A mixture of (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluoro-2-methylbenzyl)pyrrolidine-2-carboxylic acid (540 mg, 1.54 mmol), prepared as in Reference 4, 4-(4-fluorophenoxy)aniline (313 mg, 1.54 mmol), DIEA (0.4 mL) and HATU (586 mg, 1.54 mmol) in DMF (3 mL) was stirred at ambient temperature for 1 hour. The mixture was diluted with ethyl acetate (100 mL), washed with saturated sodium bicarbonate (20 mL) and then brine (20 mL), dried over anhydrous sodium sulfate and concentrated in vacuo. Product was purified from the residue by flash column (eluted with a 3:1 hexanes/ethyl acetate mixture) to give (2S,4R)-tert-butyl 4-(4-fluoro-2-methylbenzyl)-2-(4-(4-fluorophenoxy)phenylcarbamoyl)pyrrolidine-1-carboxylate (826 mg, 1.59 mmol, 103%) as a reddish oil.

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-fluoro-2-methylbenzyl)pyrrolidine-2-carboxylic acid | 1.54 mmol, 540 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)CC1=C(C=C(C=C1)F)C)C(=O)O | C18H24FNO4
reactant | 4-(4-fluorophenoxy)aniline | 1.54 mmol, 313 mg | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | DIEA | 0.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.54 mmol, 586 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-tert-butyl 4-(4-fluoro-2-methylbenzyl)-2-(4-(4-fluorophenoxy)phenylcarbamoyl)pyrrolidine-1-carboxylate | 1.59 mmol, 826 mg, 103% | FC1=CC(=C(C[C@@H]2C[C@H](N(C2)C(=O)OC(C)(C)C)C(NC2=CC=C(C=C2)OC2=CC=C(C=C2)F)=O)C=C1)C | C30H32F2N2O4
